US05563163
To a solution of 5.13 g (25 mmol) of N,N,2-triethylbenzamide in THF (50 mL) at -78° C. was added a solution of LDA (Aldrich 2.0M, 15.63 mL, 31.25 mmol). The solution was warmed to -10° C. with ice water over 1 hr, then cooled to -78° C. with dry ice-acetone. TMSCl (6.34 mL, 50 mmol) was added neat at -78° C. and then reaction brought to room temperature after 1 hr. The reaction was quenched with saturated NH4Cl and extracted with ether (2×100 mL), dried over MgSO4, stripped and the residue distilled in a Kugelrohr (130°-140° C., 0.65 mm) to obtain 6.51 g (94%) of N,N-diethyl-2-[1-(trimethylsilyl)ethyl]benzamide.

reactant | N,N,2-triethylbenzamide | 25 mmol, 5.13 g | C(C)N(C(C1=C(C=CC=C1)CC)=O)CC | C13H19NO
reactant | LDA | 31.25 mmol, 2.0M, 15.63 mL | [Li+].CC(C)[N-]C(C)C
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | TMSCl | 50 mmol, 6.34 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-2-[1-(trimethylsilyl)ethyl]benzamide | 6.51 g, 94% | C(C)N(C(C1=C(C=CC=C1)C(C)[Si](C)(C)C)=O)CC | C16H27NOSi
